US06900210B2
Preparation of (S)-[3-(1-amino-ethyl)-phenyl]-pyridin-4-yl-amine
A mixture of (S)-[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester (3 g), 4-aminopyridine (1.88 g), Pd2(dba)3 (915 mg), di-t-butylbiphenylphosphine (298 mg), K3PO4 (4.24 g) in DME (20 mL) was stirred under reflux for 24 h. The reaction mixture was cooled down to room temperature, diluted with methylene chloride, filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography using Biotage eluting with 5% MeOH in ethyl acetate to give the desired product (2.2 g) as a solid.

reactant | (S)-[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester | 3 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)Br)=O | C13H18BrNO2
reactant | 4-aminopyridine | 1.88 g | NC1=CC=NC=C1 | C5H6N2
reactant | K3PO4 | 4.24 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 915 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-[3-(1-amino-ethyl)-phenyl]-pyridin-4-yl-amine | 2.2 g | N[C@@H](C)C=1C=C(C=CC1)NC1=CC=NC=C1 | C13H15N3
